US06864255B2
[3-(4-Chloro-[1,3,5]triazin-2-ylamino)phenyl]acetic acid methyl ester (3.530 g, 12.67 mmol) is combined with 2-chlorobenzimidazole (1.933 g, 12.67 mmol) and K2CO3(2.101 g, 15.20 mmol) in AcCN (50 ml) and heated at 65-750° C. for 2 to 20 hours. The reaction mix is cooled to RT. The inorganic salts are filtered off. The AcCN solution is concentrated down under reduced pressure. The crude is purifired by chromatography with an EtOAc/hexane elution gradient, giving {3-[4-(2-chloro-benzimidazol-1-yl)-[1,3,5]triazin-2-ylamino]phenyl}acetic acid methyl ester.

reactant | [3-(4-Chloro-[1,3,5]triazin-2-ylamino)phenyl]acetic acid methyl ester | 12.67 mmol, 3.530 g | COC(CC1=CC(=CC=C1)NC1=NC=NC(=N1)Cl)=O | C12H11ClN4O2
reactant | 2-chlorobenzimidazole | 12.67 mmol, 1.933 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | K2CO3 | 15.20 mmol, 2.101 g | C(=O)([O-])[O-].[K+].[K+]
solvent | AcCN | 50 ml | C(=O)(C)C#N | C3H3NO
product | {3-[4-(2-chloro-benzimidazol-1-yl)-[1,3,5]triazin-2-ylamino]phenyl}acetic acid methyl ester | COC(CC1=CC(=CC=C1)NC1=NC=NC(=N1)N1C(=NC2=C1C=CC=C2)Cl)=O | C19H15ClN6O2
